US09340538B2
Step E: (S)-2,2-dimethylmorpholine-3-carboxylic acid
(S)-benzyl 4-benzyl-2,2-dimethylmorpholine-3-carboxylate (10.4 g, 30.8 mmol) was reacted with H2 by Pd/C catalysis (10%, 1 g) according to the procedure as described in Example 34, Step C to give the title compound as a white solid (3.4 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | (S)-benzyl 4-benzyl-2,2-dimethylmorpholine-3-carboxylate | 30.8 mmol, 10.4 g | C(C1=CC=CC=C1)N1[C@@H](C(OCC1)(C)C)C(=O)OCC1=CC=CC=C1 | C21H25NO3
catalyst | Pd/C | [Pd] | Pd
product | (S)-2,2-dimethylmorpholine-3-carboxylic acid | 3.4 g, 70% | CC1([C@H](NCCO1)C(=O)O)C | C7H13NO3
